US07786045B2
According to method of U.S. Pat. No. 3,781,438, 2 g of methyl 3-(4-methylphenyl)-3-oxopropanoate was dissolved in methanol, slightly excessive hydroxylamine hydrochloride and equivalent amount of sodium hydroxide were added, the mixture was heated to reflux. 3 hr later, the reaction was traced by Thin-Layer Chromatography, after the reaction, water was added to the reaction mixture, extracted with ethyl acetate, The combined organic extracts were dried and concentrated to obtain 3-(4-methylphenyl)isoxazol-5-ol as solid (compound III-3).

reactant | methyl 3-(4-methylphenyl)-3-oxopropanoate | 2 g | CC1=CC=C(C=C1)C(CC(=O)OC)=O | C11H12O3
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-(4-methylphenyl)isoxazol-5-ol | CC1=CC=C(C=C1)C1=NOC(=C1)O | C10H9NO2
